US05208397
Hydrogenolysis of CFC-114a/HCFC-22 Mixtures
Mixtures of CFC-114a, HCFC-22 and hydrogen were fed to a reactor operated at several temperatures for 40 hours. For a 10.5 hour period at 600° C., at an average time in synthesis of 14 hours, with liquid feed rates of 5.5 mL/hr of CFC-114a and 1 mL/hr of HCFC-22, a hydrogen feed rate of 250 cc/min (1 atm. and room temperature basis); a molar ratio of hydrogen to (HFC-114 at HCFC-22) of 10:1 was provided, and the organic component of the reactor effluent contained an average (area percent) of 51.6% HFC-134a, 35.6% HCFC-124, 0.22% CFC-114a, 4.1% HFC-32 and 5.4% HCFC-22.

reactant | HFC-134a | C(C(F)(F)F)F | C2H2F4
reactant | HCFC-124 | C(C(F)(F)F)(F)Cl | C2HClF4
reactant | CFC-114a | C(C(F)(Cl)Cl)(F)(F)F | C2Cl2F4
reactant | HFC-32 | C(F)F | CH2F2
reactant | HCFC-22 | C(F)(F)Cl | CHClF2
product | CFC-114a HCFC-22 | C(C(F)(Cl)Cl)(F)(F)F.C(F)(F)Cl | InChI=1S/C2Cl2F4.CHClF2/c3-1(4,5)2(6,7)8;2-1(3)4/h;1H
